US08017602B2
Step i) tert-Butyl 3-(3-cyanophenethoxy)propanoate
Pd(Ph3P)4 (0.53 g) was added in one portion to tert-butyl 3-(3-bromophenethoxy)propanoate [Preparation 3, Step i)] (3.00 g), and zinc cyanide (1.68 g) in DMF (35 mL) under nitrogen. The resulting mixture was stirred at 130° C. for 30 min. The reaction mixture was diluted with ethyl acetate (100 mL) and filtered through Celite. Isohexane (100 mL) was added and the mixture was washed with water (4×20 mL). The organic layer was dried over magnesium sulfate, filtered and evaporated to afford crude product. The crude product was purified by flash silica chromatography, elution gradient 0-20% ethyl acetate in isohexane to afford the subtitled compound (2.30 g). 1H NMR (300 MHz, CDCl3) δ 7.54-7.43 (m, 3H), 7.41-7.34 (m, 1H), 3.67 (t, J=6.3 Hz, 2H), 3.66 (t, J=6.6 Hz, 2H), 2.89 (t, J=6.5 Hz, 2H), 2.47 (t, J=6.3 Hz, 2H), 1.43 (s, 9H).

reactant | tert-butyl 3-(3-bromophenethoxy)propanoate | BrC=1C=C(CCOCCC(=O)OC(C)(C)C)C=CC1 | C15H21BrO3
reactant | DMF | 35 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
catalyst | Pd(Ph3P)4 | 0.53 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | zinc cyanide | 1.68 g | [C-]#N.[Zn+2].[C-]#N
product | tert-Butyl 3-(3-cyanophenethoxy)propanoate | 2.30 g | C(#N)C=1C=C(CCOCCC(=O)OC(C)(C)C)C=CC1 | C16H21NO3
